US07109186B2
Compound 874: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-(3-morpholin-4-yl-propoxy)-amide
Reaction of N-(3,4-dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(3-morpholin-4-yl-propoxy)-acetamide (0.200 g, 0.42 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.090 g (47% yield) of the title compound as a white amorphous solid after chromatography on reversed phase silica gel. 1HNMR 400 MHz (DMSO-d6) δ (ppm); 1.66 (2H, m, CH2), 2.27 (2H, t, J=7.1 Hz, NCH2), 2.32 (4H, broad, 2×NCH2), 2.95 (3H, s, NCH3), 3.55 (4H, broad, 2×OCH2), 3.86 (2H, broad t, OCH2), 4.06 (2H, s, NCH2), 4.88 (2H, s, NCH2), 7.35 (1H, dd, J=2 Hz and J=8.1 Hz, aromatic), 7.61 (1H, d, J=8.1 Hz, aromatic), 7.65 (1H, d, J=2 Hz, aromatic). HRMS (FAB+) calculated for C20H26Cl2N3O5: [M+H]+: 458.124952. found: 458.123753.

reactant | N-(3,4-dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(3-morpholin-4-yl-propoxy)-acetamide | 0.42 mmol, 0.200 g | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)OCCCN2CCOCC2)C=CC1Cl | C21H26Cl2N2O6
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-(3-morpholin-4-yl-propoxy)-amide | 0.090 g, 47% yield | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)C)OCCCN2CCOCC2)C=CC1Cl | C20H25Cl2N3O5
